US04788186
6-(4-methoxyphenyl)-3-(methylsulfinyl)-1,2,4-triazolo[3,4-a]phthalazine
3-Chloroperbenzoic acid (2.2 g) is added to a solution of 6-(4-methoxyphenyl)-3-(methylthio)-1,2,4-triazolo[3,4-a]phthalazine (4 g) in methylene chloride (120 ml) and the obtained mixture is stirred at room temperature for 5 hours. The solution is washed with sodium metabisulfite first and then with sodium bicarbonate. The organic solution is then dried over MgSO4 and concentrated to dryness by evaporating off the solvent. The residue thus obtained is crystallized from ethanol yielding 4 g of the compound of the title. M.p. 201°-03° C.

reactant | 3-Chloroperbenzoic acid | 2.2 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 6-(4-methoxyphenyl)-3-(methylthio)-1,2,4-triazolo[3,4-a]phthalazine | 4 g | COC1=CC=C(C=C1)C1=NN2C(C3=CC=CC=C13)=NN=C2SC | C17H14N4OS
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
product | 6-(4-methoxyphenyl)-3-(methylsulfinyl)-1,2,4-triazolo[3,4-a]phthalazine | COC1=CC=C(C=C1)C1=NN2C(C3=CC=CC=C13)=NN=C2S(=O)C | C17H14N4O2S
